### PR TITLE
[Merged by Bors] - feat(MeasureTheory): a relatively compact set of measures is tight

### PR DESCRIPTION
**Pull request by FormulaRabbit81**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 1]
```diff
@@ -1,12 +1,12 @@
 /-
 Copyright (c) 2024 Josha Dekker. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Rémy Degenne, Josha Dekker
+Authors: Rémy Degenne, Josha Dekker, Arav Bhattacharyya
 -/
 module
 
+public import Mathlib.MeasureTheory.Measure.LevyProkhorovMetric
 public import Mathlib.MeasureTheory.Measure.RegularityCompacts
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: This will minimize public imports:
```suggestion
public import Mathlib.MeasureTheory.Measure.ProbabilityMeasure
import Mathlib.MeasureTheory.Measure.LevyProkhorovMetric
import Mathlib.MeasureTheory.Measure.RegularityCompacts
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 2]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  have exceeds_bound : ∀ᶠ n in atTop, (1 - ε / 2 : ℝ) ≤ μlim (⋃ i ≤ n, U i) := by
+    refine Tendsto.eventually_const_le (v := 1) (by simp; positivity) (accumulation)
+  suffices ∀ᶠ n : ℕ in atTop, False by exact this.exists.choose_spec
+  filter_upwards [exceeds_bound] with n hn
+  have lim_measure_lb : (1 - ε / 2 : ℝ) ≤ 1 - ε := hn.trans <| Measurebound n
+  linarith [lim_measure_lb]
+
+variable [CompleteSpace X]
+
+theorem IsTight_of_isRelativelyCompact (hcomp : IsCompact (closure S)) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: The name should be `isTightMeasureSet_of_isCompact_closure`. Can you also change it in the docstring please?

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 3]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
 
 end IsTightMeasureSet
 
+
+open Metric ENNReal NNReal MeasureTheory ProbabilityMeasure TopologicalSpace
+
+open scoped FiniteMeasure ProbabilityMeasure
+
+variable {X : Type*} [MeasurableSpace X] [PseudoMetricSpace X] (S : Set (ProbabilityMeasure X))
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: The `open`s should be at the beginning of the file. Also, there is already a type `𝓧` introduced in the file, no need to add a new one here.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 4]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+
+/--
+This lemma is quite specific and required for the proof. I have kept it here because of it's
+  specificity. -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Can you rephrase this to make it more informative and also more formal please? We don't use `I` in docstrings. Also look at other files to see the format of docstrings (in particular no indentation and `/--` is not on its own line.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 5]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+lemma lt_geom_series (D : ℕ → X) (ε : ℝ≥0∞) (μ : ProbabilityMeasure X) (hs : μ ∈ S) (km : ℕ → ℕ)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: As this is an auxiliary step it should be private.
```suggestion
private lemma lt_geom_series (D : ℕ → X) (ε : ℝ≥0∞) (μ : ProbabilityMeasure X) (hs : μ ∈ S) (km : ℕ → ℕ)
```

Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: All the variables in this theorem should be implicit because they can be inferred from the hypotheses.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 6]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    (hbound : ∀ k : ℕ, ∀ μ ∈ S, μ (⋃ i, ⋃ (_ : i ≤ km k), ball (D i) (1 / (↑k + 1))) >
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: We write inequalities the other way around most of the time. Also you only need a large inequality in the proof. And you don't need to quantify over all `µ`s in `S` you only use it for the particular `µ` that is in your statement.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 7]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    1 - ε * 2 ^ (-k : ℤ)) :
+  ∑' (m : ℕ), (1 - μ.toMeasure (⋃ i, ⋃ (_ : i ≤ km (m + 1)), closure (ball (D i) (1 / (↑m + 1))))) ≤
+  ∑' (m : ℕ), (ε : ENNReal) * 2 ^ (-((m : ℤ) + 1)) := by
+  refine ENNReal.tsum_le_tsum ?_
+  intro m
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: You can put `intro`s inside `refine`. Please do so at the other places where this appears in the file. You can also combine the lines below:
```suggestion
  refine ENNReal.tsum_le_tsum fun m ↦ tsub_le_iff_tsub_le.mp ?_
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 8]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  specialize hbound (m+1) μ hs
+  refine tsub_le_iff_tsub_le.mp ?_
+  apply le_of_lt at hbound
+  simp only [neg_add_rev, Int.reduceNeg, one_div, tsub_le_iff_right]
+  simp only [Nat.cast_add, Nat.cast_one, one_div, tsub_le_iff_right] at hbound
+  rw [← ENNReal.coe_ofNat,← ENNReal.coe_zpow, ←ennreal_coeFn_eq_coeFn_toMeasure]
+  swap; · simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Please mind the spacing. You can put the `simp` inside the `rw`. Also you don't need the `ENNReal` namespace.
```suggestion
  rw [← coe_ofNat, ← ENNReal.coe_zpow (by simp), ← ennreal_coeFn_eq_coeFn_toMeasure]
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 9]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+This lemma is quite specific and required for the proof. I have kept it here because of it's
+  specificity. -/
+lemma lt_geom_series (D : ℕ → X) (ε : ℝ≥0∞) (μ : ProbabilityMeasure X) (hs : μ ∈ S) (km : ℕ → ℕ)
+    (hbound : ∀ k : ℕ, ∀ μ ∈ S, μ (⋃ i, ⋃ (_ : i ≤ km k), ball (D i) (1 / (↑k + 1))) >
+    1 - ε * 2 ^ (-k : ℤ)) :
+  ∑' (m : ℕ), (1 - μ.toMeasure (⋃ i, ⋃ (_ : i ≤ km (m + 1)), closure (ball (D i) (1 / (↑m + 1))))) ≤
+  ∑' (m : ℕ), (ε : ENNReal) * 2 ^ (-((m : ℤ) + 1)) := by
+  refine ENNReal.tsum_le_tsum ?_
+  intro m
+  specialize hbound (m+1) μ hs
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: You only use `hbound` once, you don't need to specialize it and you can just use it at the place where it is needed.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 10]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  simp only [neg_add_rev, Int.reduceNeg, one_div, tsub_le_iff_right]
+  simp only [Nat.cast_add, Nat.cast_one, one_div, tsub_le_iff_right] at hbound
+  rw [← ENNReal.coe_ofNat,← ENNReal.coe_zpow, ←ennreal_coeFn_eq_coeFn_toMeasure]
+  swap; · simp
+  apply le_trans hbound
+  gcongr
+  · refine apply_mono μ <| iUnion₂_mono ?_
+    intro i hi
+    rw [subset_def]
+    intro x hx; rw [EMetric.mem_closure_iff_infEdist_zero]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: We generally don't combine tactics on the same line like this, except in some short proofs for a `calc` step or a `have`. It damages readability. Please change them also at other places in the code.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 11]
```diff
@@ -136,4 +138,197 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    refine EMetric.infEdist_zero_of_mem ?_
+    rw [mem_ball']; rw [mem_ball'] at hx;
+    apply hx.trans; field_simp
+    linarith
+  · rw [← Int.neg_add, zpow_neg]; norm_cast
+    simp only [zpow_negSucc, Nat.cast_pow, Nat.cast_ofNat, ne_eq, Nat.add_eq_zero_iff, one_ne_zero,
+      false_and, not_false_eq_true, pow_eq_zero_iff, OfNat.ofNat_ne_zero, coe_inv,
+      ENNReal.coe_pow, coe_ofNat, ENNReal.inv_le_inv]
+    rw [Nat.add_comm m 1]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
    simp [add_comm]
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
This is a first round of comments on the auxiliary lemma. There are several remarks about the code which can be applied to your other proofs, so please try and apply them also there to make the review process more efficient.

File: Mathlib/MeasureTheory/Measure/Tight.lean (hunk 9 above)
Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/Tight.lean]: I couldn't figure out how to do this sorry - I have golfed it a lot, but struggled with the application

File: Mathlib/MeasureTheory/Measure/Tight.lean (hunk 4 above)
Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/Tight.lean]: I've changed it - please let me know if it needs further edits

File: Mathlib/MeasureTheory/Measure/Tight.lean (hunk 9 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Measure/Tight.lean]: For example this works (I did not implement all my other suggestions in it so you shouldn't use exactly this proof but it shows you how you can get rid of the `specialize`):
```lean
lemma lt_geom_series (D : ℕ → X) (ε : ℝ≥0∞) (μ : ProbabilityMeasure X) (hs : μ ∈ S) (km : ℕ → ℕ)
    (hbound : ∀ k : ℕ, ∀ μ ∈ S, μ (⋃ i, ⋃ (_ : i ≤ km k), ball (D i) (1 / (↑k + 1))) ≥
    1 - ε * 2 ^ (-k : ℤ)) :
  ∑' (m : ℕ), (1 - μ.toMeasure (⋃ i, ⋃ (_ : i ≤ km (m + 1)), closure (ball (D i) (1 / (↑m + 1))))) ≤
  ∑' (m : ℕ), (ε : ENNReal) * 2 ^ (-((m : ℤ) + 1)) := by
  refine ENNReal.tsum_le_tsum ?_
  intro m
  refine tsub_le_iff_tsub_le.mp ?_
  simp only [neg_add_rev, Int.reduceNeg, one_div, tsub_le_iff_right]
  simp only [one_div, ge_iff_le, tsub_le_iff_right] at hbound
  rw [← ENNReal.coe_ofNat,← ENNReal.coe_zpow, ←ennreal_coeFn_eq_coeFn_toMeasure]
  swap; · simp
  apply le_trans (hbound (m + 1) μ hs)
  gcongr
  · refine apply_mono μ <| iUnion₂_mono ?_
    intro i hi
    rw [subset_def]
    intro x hx; rw [EMetric.mem_closure_iff_infEdist_zero]
    refine EMetric.infEdist_zero_of_mem ?_
    rw [mem_ball']; rw [mem_ball'] at hx;
    apply hx.trans; field_simp
    simp
  · rw [← Int.neg_add, zpow_neg]; norm_cast
    simp only [zpow_negSucc, Nat.cast_pow, Nat.cast_ofNat, ne_eq, Nat.add_eq_zero_iff, one_ne_zero,
      false_and, not_false_eq_true, pow_eq_zero_iff, OfNat.ofNat_ne_zero, coe_inv,
      ENNReal.coe_pow, coe_ofNat, ENNReal.inv_le_inv]
    rw [Nat.add_comm m 1]
```

Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/Tight.lean]: Thank you. Unfortunately with the new proof I can't get this to work as `hbound` gets simplified in the middle. Sorry, I'm sure there is a way around it, but I can't find it.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 12]
```diff
@@ -26,20 +27,26 @@ measures in the set, the complement of `K` has measure at most `ε`.
...
 
 namespace MeasureTheory
 
-variable {𝓧 𝓨 : Type*} [TopologicalSpace 𝓧] {m𝓧 : MeasurableSpace 𝓧}
+variable {𝓧 𝓨 : Type*} {m𝓧 : MeasurableSpace 𝓧}
   {μ ν : Measure 𝓧} {S T : Set (Measure 𝓧)}
 
+section Basic
+
+variable [ts𝓧 : TopologicalSpace 𝓧]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
variable [TopologicalSpace 𝓧]
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 13]
```diff
@@ -135,5 +142,173 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  specialize hbound (m+1)
+  apply le_of_lt at hbound
+  simp_all only [neg_add_rev, Int.reduceNeg, one_div, tsub_le_iff_right, Nat.cast_add, Nat.cast_one,
+      ← coe_ofNat, ← ennreal_coeFn_eq_coeFn_toMeasure]
+  grw [hbound]
+  gcongr
+  · refine apply_mono μ <| iUnion₂_mono <| fun i hi ↦ ?_
+    grw [←subset_closure (s:= ball (D i) (↑m + 1)⁻¹), ball_subset_ball]
+    field_simp
+    simp
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Changes:
- use a generic antitone sequence `u` instead of `1/(m+1)`
- spacing of the statement
- some spaces added (after `←`, before `:=`)
```suggestion
private lemma lt_geom_series {D : ℕ → 𝓧} {ε : ℝ≥0∞} {μ : ProbabilityMeasure 𝓧} {km : ℕ → ℕ}
    {u : ℕ → ℝ} (hu_anti : Antitone u)
    (hbound : ∀ k : ℕ, 1 - ε * 2 ^ (-k : ℤ) < μ (⋃ i ≤ km k, ball (D i) (u k))) :
    ∑' (m : ℕ), (1 - μ.toMeasure (⋃ i ≤ km (m + 1), closure (ball (D i) (u m)))) ≤
    ∑' (m : ℕ), (ε : ℝ≥0∞) * 2 ^ (-((m : ℤ) + 1)) := by
  refine ENNReal.tsum_le_tsum fun m ↦ tsub_le_iff_tsub_le.mp ?_
  specialize hbound (m+1)
  apply le_of_lt at hbound
  simp_all only [neg_add_rev, Int.reduceNeg, tsub_le_iff_right, Nat.cast_add, Nat.cast_one,
      ← coe_ofNat, ← ennreal_coeFn_eq_coeFn_toMeasure]
  grw [hbound]
  gcongr
  · refine apply_mono μ <| iUnion₂_mono <| fun i hi ↦ ?_
    grw [← subset_closure (s := ball (D i) (u m)), ball_subset_ball]
    exact hu_anti (by grind)
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 14]
```diff
@@ -135,5 +142,173 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+            exact closure_ball_subset_closedBall.trans <| closedBall_subset_ball <|
+              inv_lt_of_inv_lt₀ δpos <| Nat.lt_floor_add_one _
+    -- Closedness
+    · simp only [one_div, bigK]
+      refine isClosed_iInter fun n ↦ Finite.isClosed_biUnion ?_ (fun _ _ ↦ isClosed_closure)
+      · refine Finite.ofFinset (Finset.Iic (km (n + 1))) fun x ↦ ?_
+        simp only [Finset.mem_Iic, Nat.le_eq]
+        exact Eq.to_iff rfl
+  simp only [mem_setOf_eq, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
+  exact bigcalc
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Changes:
- use a generic sequence `u` with `StrictAnti u ∧ (∀ n, 0 < u n) ∧ Tendsto u atTop (𝓝 0)` instead of `1/(m+1)`. It leads to shorter expressions and makes it easier to see what are the properties used. Also replace the inverse of delta by `have ⟨δ_inv, hδ_inv⟩ : ∃ x, u x < δ`.
- use `simpa` more
- fix spaces here and there
- replace instances of `use x; constructor; intro y`... on multiple lines by a one-line `refine`
```suggestion
theorem isTightMeasureSet_of_isCompact_closure (hcomp : IsCompact (closure S)) :
    IsTightMeasureSet {((μ : ProbabilityMeasure 𝓧) : Measure 𝓧) | μ ∈ S} := by
  rw [IsTightMeasureSet_iff_exists_isCompact_measure_compl_le]
  rcases isEmpty_or_nonempty 𝓧 with hempty | hempty
  · intro ε εpos
    use ∅
    constructor
    · exact isCompact_empty
    rw [← univ_eq_empty_iff] at hempty
    simp only [mem_setOf_eq, compl_empty, hempty, measure_empty, zero_le, implies_true]
  obtain ⟨D, hD⟩ := exists_dense_seq 𝓧
  obtain ⟨u, hu_anti, hu_pos, hu⟩ : ∃ u, StrictAnti u ∧ (∀ n, 0 < u n) ∧ Tendsto u atTop (𝓝 0) :=
    exists_seq_strictAnti_tendsto (0 : ℝ)
  have hcov (m : ℕ) : ⋃ i, ball (D i) (u m) = univ := by
    rw [denseRange_iff] at hD
    ext p
    exact ⟨fun a ↦ trivial, fun _ ↦ mem_iUnion.mpr <| hD p (u m) (hu_pos m)⟩
  intro ε εpos
  by_cases hεbound : 1 < ε
  · use ∅
    constructor
    · exact isCompact_empty
    intro μ hμ
    simp only [mem_setOf_eq] at hμ
    obtain ⟨μ', hμ', rfl⟩ := hμ
    rw [compl_empty,measure_univ]
    exact le_of_lt hεbound
  have byclaim (m : ℕ) : ∃ k, ∀ μ ∈ S, 1 - (ε * 2 ^ (- m : ℤ) : ℝ≥0∞) <
      μ (⋃ i ≤ k, ball (D i) (u m)) := by
    refine (MeasOpenCoverTendstoMeasUniv (S := S) (U := fun i ↦ ball (D i) (u m))
      (ε := (ε * 2 ^ (-m : ℤ))) (hε := ?_) (fun i ↦ isOpen_ball) hcomp) ?_ (hcov m)
    · simpa using ⟨εpos, (ENNReal.zpow_pos (by simp) (by simp) (-↑m))⟩
    · exact Left.mul_le_one (le_of_not_gt hεbound) <| zpow_le_one_of_nonpos (by linarith) (by simp)
  choose! km hbound using byclaim
  -- This is a set we can construct to show tightness
  let bigK := ⋂ m, ⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m))
  have bigcalc (μ : ProbabilityMeasure 𝓧) (hs : μ ∈ S) : μ.toMeasure (bigK)ᶜ ≤ ε := calc
    μ.toMeasure (bigK)ᶜ
    _ = μ.toMeasure (⋃ m,(⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))ᶜ) := by
      simp only [bigK, compl_iInter, compl_iUnion]
    _ ≤ ∑' m, μ.toMeasure ((⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))ᶜ) := by
      apply measure_iUnion_le
    _ = ∑' m, (1 - μ.toMeasure (⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))) := by
      congr! with m; rw [measure_compl (by measurability) (by simp)]; simp
    _ ≤ (∑' (m : ℕ), (ε : ℝ≥0∞) * 2 ^ (-(m + 1) : ℤ)) := by
      exact lt_geom_series hu_anti.antitone (fun k ↦ hbound k μ hs)
    _ = ε := by
      rw [ENNReal.tsum_mul_left]
      nth_rw 2 [←mul_one (a :=ε)]
      congr
      ring_nf
      exact tsum_two_zpow_neg_add_one
  -- Final proof
  refine ⟨bigK, ?_, by simpa⟩
  -- Compactness first
  refine TotallyBounded.isCompact_of_isClosed ?_ ?_
  --Totally bounded
  · refine Metric.totallyBounded_iff.mpr fun δ δpos ↦ ?_
    have ⟨δ_inv, hδ_inv⟩ : ∃ x, u x < δ := (Tendsto.eventually_lt_const δpos hu).exists
    refine ⟨D '' .Iic (km (δ_inv + 1)), (Set.finite_Iic _).image _, ?_⟩
    -- t should be image under D of the set of numbers less than km of δ_inv
    simp only [mem_image, iUnion_exists, biUnion_and', iUnion_iUnion_eq_right, bigK]
    calc
        ⋂ m, ⋃ i ≤ km (m + 1), closure (ball (D i) (u m))
    _ ⊆ ⋃ i ≤ km (δ_inv + 1), closure (ball (D i) (u δ_inv)) := iInter_subset ..
    _ ⊆ ⋃ i ≤ km (δ_inv + 1), ball (D i) δ := by
        gcongr
        exact closure_ball_subset_closedBall.trans <| closedBall_subset_ball <| hδ_inv
  -- Closedness
  · simp only [bigK]
    refine isClosed_iInter fun n ↦ Finite.isClosed_biUnion ?_ (fun _ _ ↦ isClosed_closure)
    refine Finite.ofFinset (Finset.Iic (km (n + 1))) fun x ↦ ?_
    simp only [Finset.mem_Iic, Nat.le_eq]
    exact Eq.to_iff rfl
```

**Review by RemyDegenne — COMMENTED** [review]
Thanks for the PR! It's getting close to a mergeable state.

Sorry for the huge suggestions in the comments, but they are due to one change with effects everywhere: replacing the explicit sequence `1/(m+1)` by an antitone sequence `u` that tends to 0. The reason is explained in one of the comments.

**Comment by FormulaRabbit81** [comment]
> Thanks for the PR! It's getting close to a mergeable state.
> 
> Sorry for the huge suggestions in the comments, but they are due to one change with effects everywhere: replacing the explicit sequence `1/(m+1)` by an antitone sequence `u` that tends to 0. The reason is explained in one of the comments.

Thank you very much for the review and code improvements! In fact I tried this myself at one point, but couldn't get it to work cleanly :)

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 15]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+      ← coe_ofNat, ← ennreal_coeFn_eq_coeFn_toMeasure]
+  grw [hbound]
+  gcongr
+  · refine apply_mono μ <| iUnion₂_mono <| fun i hi ↦ ?_
+    grw [← subset_closure (s := ball (D i) (u m)), ball_subset_ball]
+    exact hu_anti (by grind)
+
+noncomputable section
+
+variable [OpensMeasurableSpace 𝓧] [SeparableSpace 𝓧]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: We can delete that auxiliary lemma and inline it in the bigger proof. It's small enough and it brings nothing on its own.

Let's also remove the `noncomputable section`. There is no definition here, so the `noncomputable` does nothing.

The docstring of `SeparableSpace` says we should use `SecondCountableTopology` instead when they are equivalent. Is it the case here?

```suggestion
variable [PseudoMetricSpace 𝓧] [OpensMeasurableSpace 𝓧] [SeparableSpace 𝓧]
  (S : Set (ProbabilityMeasure 𝓧))
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 16]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+
+lemma MeasOpenCoverTendstoMeasUniv (U : ℕ → Set 𝓧) (O : ∀ i, IsOpen (U i))
+    (hcomp : IsCompact (closure S)) (ε : ℝ≥0∞) (hε : 0 < ε) (hεbound : ε ≤ 1)
+    (Cov : ⋃ i, U i = univ) : ∃ (k : ℕ), ∀ μ ∈ S, 1 - ε < μ (⋃ i ≤ k, U i) := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Let's group hypothesis about U together, and put the goal on it's own line for visibility.
That name will also need to be changed (it looks like a definition name right now), although I did not think about a new name.
```suggestion
lemma MeasOpenCoverTendstoMeasUniv (U : ℕ → Set 𝓧) (O : ∀ i, IsOpen (U i)) (Cov : ⋃ i, U i = univ)
    (hcomp : IsCompact (closure S))
    (ε : ℝ≥0∞) (hε : 0 < ε) (hεbound : ε ≤ 1) :
    ∃ (k : ℕ), ∀ μ ∈ S, 1 - ε < μ (⋃ i ≤ k, U i) := by
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 17]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  have εfin : ε ≠ ⊤ := by intro h; rw [h] at hεbound; exact not_top_le_coe hεbound
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: - use `∞` for top in ENNReal
- shorter proof
```suggestion
  have εfin : ε ≠ ∞ := ne_top_of_le_ne_top (by simp) hεbound
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 18]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  lift ε to ℝ≥0 using εfin
+  obtain ⟨ε,hε'⟩ := ε
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
  obtain ⟨ε, hε'⟩ := ε
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 19]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  simp only [ENNReal.coe_pos, ← NNReal.coe_lt_coe, NNReal.coe_zero, coe_mk, coe_le_one_iff,
+      ← NNReal.coe_le_coe, NNReal.coe_one] at hε hεbound
+  by_contra! nh
+  choose μ hμInS hcontradiction using nh
+  obtain ⟨μlim, _, sub, hsubmono, hμconverges⟩ :=
+      hcomp.isSeqCompact (fun n ↦ subset_closure <| hμInS n)
+  have Measurebound n := calc
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: For readability, let's add the type.
```suggestion
  have Measurebound n : (μlim (⋃ (i ≤ n), U i) : ℝ) ≤ 1 - ε := calc
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 20]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+        use n + 1
+        intro b hypo
+        refine (μ (sub b)).apply_mono
+            <| Set.biUnion_mono (fun i (hi : i ≤ n) ↦ hi.trans ?_) fun _ _ ↦ le_rfl
+        exact le_trans (Nat.le_add_right n 1) (le_trans hypo (StrictMono.le_apply hsubmono))
+      · use 0; simp
+      · use 1
+        simpa [ge_iff_le, eventually_map, eventually_atTop, ge_iff_le, forall_exists_index] using
+            fun _ d hyp ↦ (hyp d (by simp)).trans
+            <| ProbabilityMeasure.apply_le_one (μ (sub d)) (⋃ i ≤ sub d, U i)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
            fun _ d hyp ↦ (hyp d (by simp)).trans (by simp)
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 21]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+      · use 0; simp
+      simp only [eventually_atTop, ge_iff_le, forall_exists_index]
+      intro b c h
+      apply le_trans (h c le_rfl)
+      refine (ofReal_le_ofReal_iff (by rw [sub_nonneg]; exact hεbound)).mp ?_
+      rw [ofReal_coe_nnreal]
+      apply le_trans (hcontradiction (sub c))
+      norm_cast
+  have accumulation : Tendsto (fun n ↦ μlim (⋃ i ≤ n, U i)) atTop (𝓝 (μlim (⋃ i, U i))) := by
+    simp_rw [←Set.accumulate_def, ProbabilityMeasure.tendsto_measure_iUnion_accumulate]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
    simp_rw [← Set.accumulate_def, ProbabilityMeasure.tendsto_measure_iUnion_accumulate]
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 22]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  rw [Cov, coeFn_univ, ← NNReal.tendsto_coe] at accumulation
+  have exceeds_bound : ∀ᶠ n in atTop, (1 - ε / 2 : ℝ) ≤ μlim (⋃ i ≤ n, U i) :=
+      Tendsto.eventually_const_le (v := 1) (by simp; positivity) (accumulation)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
      Tendsto.eventually_const_le (v := 1) (by simp; positivity) accumulation
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 23]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  suffices ∀ᶠ n : ℕ in atTop, False by exact this.exists.choose_spec
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
  suffices ∀ᶠ n : ℕ in atTop, False from this.exists.choose_spec
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 24]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  filter_upwards [exceeds_bound] with n hn
+  linarith [hn.trans <| Measurebound n]
+
+variable [CompleteSpace 𝓧]
+
+theorem isTightMeasureSet_of_isCompact_closure (hcomp : IsCompact (closure S)) :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean:214]: This theorem needs a docstring.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 25]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    IsTightMeasureSet {((μ : ProbabilityMeasure 𝓧) : Measure 𝓧) | μ ∈ S} := by
+  rw [IsTightMeasureSet_iff_exists_isCompact_measure_compl_le]
+  rcases isEmpty_or_nonempty 𝓧 with hempty | hnonempty
+  · intro ε εpos
+    use ∅
+    constructor
+    · exact isCompact_empty
+    rw [← univ_eq_empty_iff] at hempty
+    simp [mem_setOf_eq, compl_empty, hempty, measure_empty, zero_le, implies_true]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
  · rw [← univ_eq_empty_iff] at hempty
    exact fun ε εpos ↦ ⟨∅, isCompact_empty, by simp [hempty]⟩
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 26]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  have hcov (m : ℕ) : ⋃ i, ball (D i) (u m) = univ := by
+    rw [denseRange_iff] at hD
+    ext p
+    exact ⟨fun a ↦ trivial, fun _ ↦ mem_iUnion.mpr <| hD p (u m) (hu_pos m)⟩
+  intro ε εpos
+  by_cases hεbound : 1 < ε
+  · use ∅
+    constructor
+    · exact isCompact_empty
+    intro μ hμ
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
  rcases lt_or_ge 1 ε with hεbound | hεbound
  · refine ⟨∅, isCompact_empty, fun μ hμ ↦ ?_⟩
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 27]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    simp only [mem_setOf_eq] at hμ
+    obtain ⟨μ', hμ', rfl⟩ := hμ
+    rw [compl_empty,measure_univ]
+    exact le_of_lt hεbound
+  have byclaim (m : ℕ) : ∃ k, ∀ μ ∈ S, 1 - (ε * 2 ^ (- m : ℤ) : ℝ≥0∞) <
+      μ (⋃ i ≤ k, ball (D i) (u m)) := by
+    refine (MeasOpenCoverTendstoMeasUniv (S := S) (U := fun i ↦ ball (D i) (u m))
+      (ε := (ε * 2 ^ (-m : ℤ))) (hε := ?_) (fun i ↦ isOpen_ball) hcomp) ?_ (hcov m)
+    · simpa using ⟨εpos, (ENNReal.zpow_pos (by simp) (by simp) (-↑m))⟩
+    · exact Left.mul_le_one (le_of_not_gt hεbound) <| zpow_le_one_of_nonpos (by linarith) (by simp)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Reorder the arguments, adapt to the new type of `hεbound` from the change above.
```suggestion
    refine MeasOpenCoverTendstoMeasUniv (S := S) (fun i ↦ ball (D i) (u m))
      (fun _ ↦ isOpen_ball) (hcov m) hcomp (ε * 2 ^ (-m : ℤ)) ?_ ?_
    · simpa using ⟨εpos, (ENNReal.zpow_pos (by simp) (by simp) (-↑m))⟩
    · exact Left.mul_le_one hεbound <| zpow_le_one_of_nonpos (by linarith) (by simp)
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 28]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  choose! km hbound using byclaim
+  -- This is a set we can construct to show tightness
+  let bigK := ⋂ m, ⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m))
+  have bigcalc (μ : ProbabilityMeasure 𝓧) (hs : μ ∈ S) : μ.toMeasure (bigK)ᶜ ≤ ε := calc
+    μ.toMeasure (bigK)ᶜ
+    _ = μ.toMeasure (⋃ m,(⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))ᶜ) := by
+      simp only [bigK, compl_iInter, compl_iUnion]
+    _ ≤ ∑' m, μ.toMeasure ((⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))ᶜ) := by
+      exact measure_iUnion_le _
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Add the type of the `have`, remove a `by exact`.
Don't squeeze terminal `simp`s.
```suggestion
  have bigcalc (μ : ProbabilityMeasure 𝓧) (hs : μ ∈ S) : μ.toMeasure bigKᶜ ≤ ε := calc
    μ.toMeasure bigKᶜ
    _ = μ.toMeasure (⋃ m,(⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))ᶜ) := by simp [bigK]
    _ ≤ ∑' m, μ.toMeasure (⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))ᶜ :=
      measure_iUnion_le _
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 29]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    _ = ∑' m, (1 - μ.toMeasure (⋃ (i ≤ km (m + 1)), closure (ball (D i) (u m)))) := by
+      congr! with m; rw [measure_compl (by measurability) (by simp)]; simp
+    _ ≤ (∑' (m : ℕ), (ε : ℝ≥0∞) * 2 ^ (-(m + 1) : ℤ)) := by
+      exact lt_geom_series hu_anti.antitone (fun k ↦ hbound k μ hs)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: Inline the auxiliary lemma.
Note the TODO.
```suggestion
      refine ENNReal.tsum_le_tsum fun m ↦ tsub_le_iff_tsub_le.mp ?_
      replace hbound := (hbound (m + 1) μ hs).le
      simp_all only [neg_add_rev, Int.reduceNeg, tsub_le_iff_right, Nat.cast_add, Nat.cast_one,
          ← coe_ofNat, ← ennreal_coeFn_eq_coeFn_toMeasure]
      grw [hbound]
      gcongr with i hi -- TODO: works only if you put @[gcongr] on ProbabilityMeasure.apply_mono
      grw [← subset_closure (s := ball (D i) (u m)), ball_subset_ball]
      exact hu_anti.antitone (by grind)
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 30]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    _ = ε := by
+      rw [ENNReal.tsum_mul_left]
+      nth_rw 2 [←mul_one (a :=ε)]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
      nth_rw 2 [← mul_one (a := ε)]
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 31]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+    _ ⊆ ⋃ i ≤ km (δ_inv + 1), closure (ball (D i) (u δ_inv)) := iInter_subset ..
+    _ ⊆ ⋃ i ≤ km (δ_inv + 1), ball (D i) δ := by
+        gcongr
+        exact closure_ball_subset_closedBall.trans <| closedBall_subset_ball <| hδ_inv
+  -- Closedness
+  · simp only [bigK]
+    refine isClosed_iInter fun n ↦ Finite.isClosed_biUnion ?_ (fun _ _ ↦ isClosed_closure)
+    refine Finite.ofFinset (Finset.Iic (km (n + 1))) fun x ↦ ?_
+    simp only [Finset.mem_Iic, Nat.le_eq]
+    exact Eq.to_iff rfl
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: remove an unnecessary `simp`
```suggestion
  · refine isClosed_iInter fun n ↦ Finite.isClosed_biUnion ?_ (fun _ _ ↦ isClosed_closure)
    refine Finite.ofFinset (Finset.Iic (km (n + 1))) fun x ↦ ?_
    simp only [Finset.mem_Iic, Nat.le_eq]
    rfl
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 32]
```diff
@@ -135,5 +142,164 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+
+end
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/Measure/Tight.lean (hunk 15 above)
Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/Tight.lean]: > The docstring of `SeparableSpace` says we should use `SecondCountableTopology` instead when they are equivalent. Is it the case here?

I think so. In a metric space they are definitely equivalent, and the proof of separable -> second countable doesn't rely on nonzero distances anywhere

**Comment by FormulaRabbit81** [comment]
Thanks again for the review! I've committed your suggestions and had a few small notes / questions:

 - isTightMeasureSet_singleton broke when I merged so I had to add an import for it. I assume this is due to a recent PR
 - The docstring I've added isn't very descriptive. Should I add more or is this sufficent? Other than it being part of Prokhorov's theorem I am not sure what could be added
 - I’ve named the first theorem exists_union_of_OpenCover_of_mass_precompact_Set_ProbabilityMeasure, which is hopefully more appropriate, but very long.
 - I put @[gcongr] on ProbabilityMeasure.apply_mono. Does this need to be a separate PR?
 - I got a warning on line 204 that I need to squeeze the simp, but it doesn’t work without this weird amount of spacing.

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 33]
```diff
@@ -138,5 +146,142 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
...
+  have exceeds_bound : ∀ᶠ n in atTop, (1 - ε / 2 : ℝ) ≤ μlim (⋃ i ≤ n, U i) :=
+      Tendsto.eventually_const_le (v := 1) (by simp only [sub_lt_self_iff, Nat.ofNat_pos,
+                    div_pos_iff_of_pos_right]; positivity) accumulation
+  suffices ∀ᶠ n : ℕ in atTop, False from this.exists.choose_spec
+  filter_upwards [exceeds_bound] with n hn
+  linarith [hn.trans <| Measurebound n]
+
+variable [CompleteSpace 𝓧]
+
+/-In a second countable complete metric space, a precompact set of probability measures is tight.-/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: That's a regular comment /- -/, not a docstring /-- -/
If you don't mind, I'd also like to replace precompact, which is not a word used in the code (and is sometimes used for another meaning), by the more explicit "with compact closure".

```suggestion
/-- In a second countable complete metric space, a set of probability measures with compact closure
is tight. -/
```

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 34]
```diff
@@ -138,5 +146,142 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
   exact subset_preimage_image f K
 
 end IsTightMeasureSet
+end Basic
+
+variable [PseudoMetricSpace 𝓧] [OpensMeasurableSpace 𝓧] [SecondCountableTopology 𝓧]
+  (S : Set (ProbabilityMeasure 𝓧))
+
+lemma exists_union_of_OpenCover_of_mass_precompact_Set_ProbabilityMeasure
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: `OpenCover` and `precompact` don't correspond to Lean definitions, so that name is not ideal for discoverability (although perhaps that is not very important because it's unlikely to be used elsewhere).
Also you wrote `union`, which usually refers to an union of two sets. An indexed union is `iUnion`.
Here is my proposal, that omits a lot of the hypotheses but hopefully should be specific enough:

```suggestion
lemma exists_measure_iUnion_gt_of_isCompact_closure
```

**Review by RemyDegenne — APPROVED** [review]
Here are my last comments. Doing a separate PR for the gcongr attribute is not necessary, we can add it here.
Thanks for this PR!
bors d+

File: Mathlib/MeasureTheory/Measure/Tight.lean [hunk 35]
```diff
@@ -138,5 +146,142 @@ lemma map [TopologicalSpace 𝓨] [MeasurableSpace 𝓨] [OpensMeasurableSpace 
   exact subset_preimage_image f K
 
 end IsTightMeasureSet
+end Basic
+
+variable [PseudoMetricSpace 𝓧] [OpensMeasurableSpace 𝓧] [SecondCountableTopology 𝓧]
+  (S : Set (ProbabilityMeasure 𝓧))
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Tight.lean]: This should be an implicit argument.
```suggestion
  {S : Set (ProbabilityMeasure 𝓧)}
```

File: Mathlib/MeasureTheory/Measure/Tight.lean (hunk 34 above)
Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/Tight.lean]: That's a much better name, thanks

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
